US05212187
N-[4-[N-[2-(diphenylmethoxy)ethyl]-N-methylamino]butyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.37 g (1.2 mmol) of N-[2-(diphenylmethoxy)ethyl]-N-methyl-1,4-butanediamine and the equimolar amounts of 1,1'-carbonyldiimidazole and 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography analogously to Example 63 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=570 ([M+H]+, 11), 167 (100); IR (KBr): 1644 cm-1 (C=O). For further analysis, a portion of the compound is converted into the tartaric acid salt and recrystallised from acetonitrile/isopropanol/petroleum ether; m.p.: 101° C. (acetonitrile/isopropanol/petroleum ether).

reactant | N-[2-(diphenylmethoxy)ethyl]-N-methyl-1,4-butanediamine | 1.2 mmol, 0.37 g | C1(=CC=CC=C1)C(OCCN(CCCCN)C)C1=CC=CC=C1 | C20H28N2O
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
product | N-[4-[N-[2-(diphenylmethoxy)ethyl]-N-methylamino]butyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | C1(=CC=CC=C1)C(OCCN(C)CCCCNC(=O)NCCSCC=1N=C(SC1)NC(=N)N)C1=CC=CC=C1 | C28H39N7O2S2
